US04722929
2-(2-Methoxy-4-amino-phenyl)-5H-imidazo[4,5-d]pyridazin-4-one
Prepared analogously to Example 1 from 4,5-diamino-2H-pyridazin-3-one and 2-methoxy-4-amino-benzoic acid.

reactant | 4,5-diamino-2H-pyridazin-3-one | NC=1C(NN=CC1N)=O | C4H6N4O
reactant | 2-methoxy-4-amino-benzoic acid | COC1=C(C(=O)O)C=CC(=C1)N | C8H9NO3
product | 2-(2-Methoxy-4-amino-phenyl)-5H-imidazo[4,5-d]pyridazin-4-one | COC1=C(C=CC(=C1)N)C=1N=C2C(=CNNC2=O)N1 | C12H11N5O2
